US05210291
Using the same procedure as in Example 8, 45.2 g (0.2 mol) of 1-bromo-2,5-dichlorobenzene, 23.7 g (0.4 mol) of 95% potassium hydroxide, 18.4 g (0.2 mol) of thioglycolic acid and 320 g of N-methyl-2-pyrrolidone were added, followed by stirring at 140° to 150° C. for 2 hours. Then, 30.4 g (0.26 mol) of sodium monochloroacetate was added to the reaction solution, followed by stirring at 90° C. for 1 hour. After distilling off the solvent, 300 g of water and 50 g of toluene were added for layer separation. To the water layer was added 45 g of concentrated hydrochloric acid, and the mixture was cooled to room temperature. The resulting crystal was filtered and dried to yield 34.0 g of 2,5-dichlorophenylthioglycolic acid with a yield of 71.7%. The results are given in Table 2.

reactant | 1-bromo-2,5-dichlorobenzene | 0.2 mol, 45.2 g | BrC1=C(C=CC(=C1)Cl)Cl | C6H3BrCl2
reactant | potassium hydroxide | 0.4 mol, 23.7 g | [OH-].[K+]
reactant | thioglycolic acid | 0.2 mol, 18.4 g | C(CS)(=O)O | C2H4O2S
reactant | sodium monochloroacetate | 0.26 mol, 30.4 g | ClCC(=O)[O-].[Na+]
solvent | N-methyl-2-pyrrolidone | 320 g | CN1C(CCC1)=O | C5H9NO
product | 2,5-dichlorophenylthioglycolic acid | 34.0 g, yield of 71.7% | ClC1=C(C=C(C=C1)Cl)C(C(=O)O)S | C8H6Cl2O2S
